US06613786B2
Step 2: Preparation of (4-bromo-5-chloro-2-methoxyphenyl)hydrazine
The title compound was prepared by the general procedure described above for Preparations 2a-i using 4-chloro-5-bromo-2-aminoanisole (7.68 g), NaNO2 (2.25 g), and SnCl2.2H2O (15 g). Workup gave 5.5 g (73%) of (4-bromo-5-chloro-2-methoxyphenyl)hydrazine which was used in the next step without further purification.

reactant | 4-chloro-5-bromo-2-aminoanisole | 7.68 g | ClC1=CC(=C(C=C1Br)OC)N | C7H7BrClNO
reactant | NaNO2 | 2.25 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 15 g | O.O.Cl[Sn]Cl
product | (4-bromo-5-chloro-2-methoxyphenyl)hydrazine | 5.5 g, 73% | BrC1=CC(=C(C=C1Cl)NN)OC | C7H8BrClN2O
